US05922871
1-[4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoyl]piperazine
4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid (1.5 g) was dissolved in methylene chloride (50 ml) and then, triethylamine (0.7 ml) was added and cooled. Pivaloyl chloride (0.58 ml) was added slowly to the solution at 0~5° C. and the mixture was stirred at 5° C. for 2 hours. With the addition of piperazine (0.9 g), the solution was stirred at 5~10° C. for 3 hours. The reaction mixture was washed with water and aqueous sodium bicarbonate and the solvent was concentrated under reduced pressure. The concentrated residue was crystallized by treatment with ether and further recrystallized using isopropanol and ether. The recrystallized product was filtered and dried to give 1.48 g (yield: 83%) of the desired compound as white crystal.

reactant | 4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid | 1.5 g | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C(=O)O)C=C1 | C20H24N4O3
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | Pivaloyl chloride | 0.58 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | piperazine | 0.9 g | N1CCNCC1 | C4H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoyl]piperazine | 1.48 g, yield: 83% | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C(=O)N2CCNCC2)C=C1 | C24H32N6O2
